US04304911
A stirred solution of 1-[2-(4-benzoylphenyl)propyl]-4-aminopiperidine dihydrochloride, 150 ml. of methylene dichloride and 10.5 g. (0.105 mole) of triethylamine was treated in portions with a solution of 3.9 g. (0.039 mole) of cyclopropanecarbonyl chloride in methylene dichloride. When addition was complete the mixture was allowed to stand at ambient temperature for twenty-four hours and then washed two times with water, once with aqueous potassium carbonate and once with brine and then dried and taken to dryness in vacuo. Recrystallization of the residue from diethyl ether gave 1-[2-(4-benzoylphenyl)propyl]-4-cyclopropanecarbonylaminopiperidine, m.p. 159°-160° C.

reactant | 1-[2-(4-benzoylphenyl)propyl]-4-aminopiperidine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C(CN1CCC(CC1)N)C
reactant | triethylamine | 0.105 mole | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.039 mole | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-benzoylphenyl)propyl]-4-cyclopropanecarbonylaminopiperidine | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C(CN1CCC(CC1)NC(=O)C1CC1)C | C25H30N2O2
